US06992087B2
Preparation of 2-ethylindan-1-amine
Following the procedure for the preparation of 6,7-dihydro-5H-cyclopenta[b]pyridin-5-amine but substituting 2-ethyl-2,3-dihydro-1H-inden-1-one oxime and making non-critical variations provided the title compound as a colorless oil.

reactant | 6,7-dihydro-5H-cyclopenta[b]pyridin-5-amine | N1=C2C(=CC=C1)C(CC2)N | C8H10N2
reactant | 2-ethyl-2,3-dihydro-1H-inden-1-one oxime | C(C)C1C(C2=CC=CC=C2C1)=NO | C11H13NO
product | 2-ethylindan-1-amine | C(C)C1C(C2=CC=CC=C2C1)N | C11H15N
